US07576215B2
4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}AMINO)BENZOIC ACID
The title compound was prepared from 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde and 4-amino-benzoic acid ethyl ester according to the procedure of Example 66. MS m/z 527; MS m/z 525.

reactant | 3-[3-benzoyl-8-(trifluoromethyl)quinolin-4-yl]benzaldehyde | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=O)C=CC1)C(F)(F)F | C24H14F3NO2
reactant | 4-amino-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
product | 4-({3-[3-BENZOYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]BENZYL}AMINO)BENZOIC ACID | C(C1=CC=CC=C1)(=O)C=1C=NC2=C(C=CC=C2C1C=1C=C(CNC2=CC=C(C(=O)O)C=C2)C=CC1)C(F)(F)F | C31H21F3N2O3
